US09023858B2
B) 8-chloro-2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one
To a mixture of 8-chloro-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidine-2,4(1H,3H)-dione (437 mg), iodoethane (0.19 ml) and N,N-dimethylformamide (10 ml) was added potassium carbonate (326 mg) at room temperature, and the mixture was stirred at 80° C. for 15 hr, and allowed to be cooled to room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate) to give the title compound (116 mg).

reactant | 8-chloro-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidine-2,4(1H,3H)-dione | 437 mg | ClC1=NC=CC2=C1NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=O | C15H9ClF3N3O3
reactant | iodoethane | 0.19 ml | ICC | C2H5I
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 326 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 8-chloro-2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one | 116 mg | ClC1=NC=CC2=C1N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)OCC | C17H13ClF3N3O3
